US04280011
Diethyl 2-[(1'-Ethoxy)Ethoxy]Succinate
A mixture of 19 g. diethyl malate and 0.1 g. of 36% hydrochloric acid was added to a 50 ml. round-bottom flask equipped with an addition funnel, static nitrogen head, condensor, heating mantle, thermometer, and magnetic stirrer. Ethyl vinyl ether was then added, dropwise, at 41° to 43° C. over a one-hour period and quenched with 0.4 g. of solid sodium carbonate. Distillation was performed directly on the mixture (short path column):

reactant | diethyl malate | C(C(O)CC(=O)OCC)(=O)OCC | C8H14O5
reactant | hydrochloric acid | Cl | ClH
reactant | Ethyl vinyl ether | C(=C)OCC | C4H8O
product | Diethyl 2-[(1'-Ethoxy)Ethoxy]Succinate | C(C)OC(C)OC(C(=O)OCC)CC(=O)OCC | C12H22O6
